US04225725
Preparation of Ethoxymethyl 3-Acetamido-2,4,6-triiodobenzoate
To a stirred slurry of sodium 3-acetamido-2,4,6-triiodobenzoate (14.5 g, 0.025 mole) in dimethylformamide (150 ml) was added chloromethyl ethyl ether (2.56 g, 0.027 mole). A white solid (NaCl) precipitated promptly. The mixture was stirred overnight, filtered, and evaporated to near dryness under reduced pressure to yield 17.8 g. of residue. The residue was dissolved in 200 ml. of chloroform, filtered and the filtrate was extracted with 5% aqueous sodium bicarbonate, washed with water and dried over anhydrous sodium sulfate and evaporated under reduced pressure to dryness. The residue (10.5 g.) obtained was recrystallized from carbon tetrachloride (200 ml.) and chloroform (enough to dissolve the residue), to yield the product 5.05 g. (31.5%), m.p. 174°-177.7° C. The ir and and nmr spectra were in agreement with the structure as assigned.

reactant | sodium 3-acetamido-2,4,6-triiodobenzoate | 0.025 mole, 14.5 g | C(C)(=O)NC=1C(=C(C(=O)[O-])C(=CC1I)I)I.[Na+]
reactant | chloromethyl ethyl ether | 0.027 mole, 2.56 g | C(C)OCCl | C3H7ClO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Ethoxymethyl 3-Acetamido-2,4,6-triiodobenzoate | 5.05 g | C(C)(=O)NC=1C(=C(C(=O)OCOCC)C(=CC1I)I)I | C12H12I3NO4
